US07253286B2
Phenyl N-(3-Methylisoxazol-5-yl)carbamate
5-Amino-3-methylisoxazole (1 g) purchased from Aldrich Co. was dissolved in tetrahydrofuran (40 ml) and pyridine (1.5 ml), and after cooling to 0° C. under a nitrogen atmosphere, phenyl chlorocarbonate (1.4 ml) was added and the mixture was stirred at room temperature for 1.5 hours. Water was added, extraction was performed twice with ethyl acetate, and then the organic layers were combined, washed with water and saturated brine in that order, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was recrystallized from ethyl acetate and n-hexane to obtain the title compound (450 mg, 20% yield).

reactant | 5-Amino-3-methylisoxazole | 1 g | NC1=CC(=NO1)C | C4H6N2O
reactant | phenyl chlorocarbonate | 1.4 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | Phenyl N-(3-Methylisoxazol-5-yl)carbamate | 450 mg, 20% yield | CC1=NOC(=C1)NC(OC1=CC=CC=C1)=O | C11H10N2O3
